US09428452B2
2-(N-(2,4-dimethylphenyl)-N-isobutylsulfamoyl)-5-((tetrahydro-2H-pyran-4-yl)methoxy)benzoic acid
To a stirred solution of 2-bromo-N-(2,4-dimethylphenyl)-N-isobutyl-4-((tetrahydro-2H-pyran-4-yl)methoxy)benzenesulfonamide (50 mg, 0.098 mmol) in tetrahydrofuran (THF) at −78° C. was added nBuLi 1.6 M in hexanes (92 μL, 0.147 mmol) and the reaction stirred for 1 hour. After this time carbon dioxide (small pellet) was added and the reaction mixture stirred at −78° C. for 30 minutes, then warmed to 20° C. and stirred for a further 1 hour. The reaction was quenched with saturated ammonium chloride solution and the mixture concentrated in vacuo. The residue was then taken up in ethyl acetate (20 mL) and the organic phase was washed with saturated ammonium chloride solution (2×25 mL), the organics were dried using a hydrophobic frit and evaporated in vacuo to give the crude product as a colourless gum, 40 mg. LCMS [LCMS2] Rt 0.97 min, m/z (ES+) 476 (M+H).

reactant | 2-bromo-N-(2,4-dimethylphenyl)-N-isobutyl-4-((tetrahydro-2H-pyran-4-yl)methoxy)benzenesulfonamide | 0.098 mmol, 50 mg | BrC1=C(C=CC(=C1)OCC1CCOCC1)S(=O)(=O)N(CC(C)C)C1=C(C=C(C=C1)C)C | C24H32BrNO4S
reactant | nBuLi | 1.6 M | [Li]CCCC
reactant | carbon dioxide | C(=O)=O | CO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(N-(2,4-dimethylphenyl)-N-isobutylsulfamoyl)-5-((tetrahydro-2H-pyran-4-yl)methoxy)benzoic acid | CC1=C(C=CC(=C1)C)N(S(=O)(=O)C1=C(C(=O)O)C=C(C=C1)OCC1CCOCC1)CC(C)C | C25H33NO6S
